US07553852B2
In scheme II above, the following abbreviations are used: KF is potassium fluoride; DMF is N,N-dimethylformamide; Ar2OH is either 2,3,5,6-tetrafluorophenol, 2,4,6-trifluorophenol or 2,3,6-trifluorophenol; THF is tetahydrofuran; MeOH is methanol. Commercially available bromoketone D is reacted with the appropriately substituted fluorophenol and potassium fluoride to give phenoxy ketone E. The ketone is then reduced with sodium borohydride to give the alcohol F, which is hydrogenated using palladium on carbon as catalyst to give the amino alcohol B′ (Ar2=fluoro-substituted phenyl).

reactant | KF | [F-].[K+]
reactant | 2,3,5,6-tetrafluorophenol | FC1=C(C(=C(C=C1F)F)F)O | C6H2F4O
reactant | 2,4,6-trifluorophenol | FC1=C(C(=CC(=C1)F)F)O | C6H3F3O
reactant | 2,3,6-trifluorophenol | FC1=C(C(=CC=C1F)F)O | C6H3F3O
reactant | bromoketone | BrC(=O)Br | CBr2O
solvent | methanol | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | DMF | CN(C)C=O | C3H7NO
product | phenoxy ketone | O(C1=CC=CC=C1)C(=O)OC1=CC=CC=C1 | C13H10O3
